US05420280
Sodium borohydride (2 g) was added portionwise to a stirred solution of 4-(N-phenylamino)-1-(2-phenylethyl)piperidine-4-carboxaldehyde (2 g) in methanol (2 g) at room temperature for 2 hours. The mixture was diluted with water, extracted with chloroform and the combined extracts washed, dried over MgSO4 and concentrated. The residue was chromatographed on silica gel, using chloroform-methanol 19:1 as eluant, to afford 4-(N-phenylamino)-1-(2-phenylethyl)-4-piperidinylmethanol (1.65 g), m.p. 98°-99° C.

reactant | Sodium borohydride | 2 g | [BH4-].[Na+]
reactant | 4-(N-phenylamino)-1-(2-phenylethyl)piperidine-4-carboxaldehyde | 2 g | C1(=CC=CC=C1)NC1(CCN(CC1)CCC1=CC=CC=C1)C=O | C20H24N2O
solvent | methanol | 2 g | CO | CH4O
solvent | water | O | H2O
product | 4-(N-phenylamino)-1-(2-phenylethyl)-4-piperidinylmethanol | 1.65 g | C1(=CC=CC=C1)NC1(CCN(CC1)CCC1=CC=CC=C1)CO | C20H26N2O
